US06720430B2
Repeat steps of Example 2, but replace the initial reactant 8,9-epoxy-3-oxo-4-oxa-tricyclo[5.2.1.02,6]decane with 3,4-epoxy-7-oxo-8-oxa-bicyclo[4.3.0]nonane, and replace methanol with anhydrous ethanol. The colorless oil product, 4-ethoxy-9-oxo-8-oxa-bicyclo[4.3.0]non-3-yl acrylate (I-3), is obtained.

reactant | 8,9-epoxy-3-oxo-4-oxa-tricyclo[5.2.1.02,6]decane | O1C2C3C4COC(C4C(C21)C3)=O | C9H10O3
reactant | 3,4-epoxy-7-oxo-8-oxa-bicyclo[4.3.0]nonane | O1C2CC3COC(C3CC21)=O | C8H10O3
reactant | methanol | CO | CH4O
reactant | ethanol | C(C)O | C2H6O
product | 4-ethoxy-9-oxo-8-oxa-bicyclo[4.3.0]non-3-yl acrylate | C(C=C)(=O)OC1CC2C(OCC2CC1OCC)=O | C13H18O5
